US06599917B1
b) 2-Benzyl-6-[(3R,4R)-3,4-difluoropyrrolidine-1-yl]-3-iodopyridine
94 mg of N-iodosuccinic acid imide was added little by little to 5.0 ml of an N,N-dimethylformamide solution containing 104 mg of 2-benzyl-6-[(3R,4R)-3,4-difluoropyrrolidine-1-yl]pyridine under ice-cooling, followed by stirring overnight as it was. Water was added to the reaction solution and the mixture was extracted with ethyl acetate. The organic phase was washed with an aqueous sodium thiosulfate solution, water and brine, and the solvent was removed. The residue was subjected to NH-silica gel (Fuji Silicia) column chromatography and eluted with hexane/ethyl acetate (10:1), to give 152 mg of the target compound.

reactant | N-iodosuccinic acid imide | 94 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
reactant | 2-benzyl-6-[(3R,4R)-3,4-difluoropyrrolidine-1-yl]pyridine | 104 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@H]([C@@H](C1)F)F | C16H16F2N2
solvent | Water | O | H2O
product | 2-Benzyl-6-[(3R,4R)-3,4-difluoropyrrolidine-1-yl]-3-iodopyridine | 152 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]([C@@H](C1)F)F | C16H15F2IN2
